US09388141B2
1.1 tert-butyl trans-N-[4-[2-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)piperazin-1-yl]ethyl]cyclohexyl]carbamate
A mixture of 2-tert-butyl-4-cyclobutyl-6-(piperazin-1-yl)pyrimidine (7.16 g, 26.1 mmol) and tert-butyl trans-4-(2-oxoethyl)cyclohexylcarbamate (6 g, 24.86 mmol) in DCE (100 ml) was stirred at room temperature for 10 min. AcOH and sodium triacetoxyhydroborate (7.90 g, 37.3 mmol) were added. After 4 h, water was added. The aqueous layer was extracted with methylene chloride (3×50 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure to give the title compound as a yellow oil of (11.2 g, 21.29 mmol, 86% yield) which was used next step without purification.

reactant | 2-tert-butyl-4-cyclobutyl-6-(piperazin-1-yl)pyrimidine | 26.1 mmol, 7.16 g | C(C)(C)(C)C1=NC(=CC(=N1)C1CCC1)N1CCNCC1 | C16H26N4
reactant | tert-butyl trans-4-(2-oxoethyl)cyclohexylcarbamate | 24.86 mmol, 6 g | O=CC[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C13H23NO3
reactant | AcOH | CC(=O)O | C2H4O2
reactant | sodium | [Na] | Na
solvent | DCE | 100 ml | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | tert-butyl trans-N-[4-[2-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)piperazin-1-yl]ethyl]cyclohexyl]carbamate | 86% yield | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CC[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C1CCC1 | C29H49N5O2
